US04588722
A mixture of 5.09 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-1-(2-furanylmethyl)-1H-benzimidazol-2-amine and 54 parts of N,N-dimethylformamide was stirred and heated at 50° C. and there was added dropwise a solution of 2.8 parts of dihydro-3-phenyl-2H-pyran-2,6(3H)dione in 18 parts of N,N-dimethylformamide. Upon completion, stirring was continued overnight at 50° C. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was from a mixture of acetonitrile and 2,2'-oxybispropane, yielding 1.8 parts of N-[2-[4-[[1-(2-furanylmethyl)-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]formamide hemihydrate; mp. 125.2° C. (compound 46).

reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-1-(2-furanylmethyl)-1H-benzimidazol-2-amine | NCCN1CCC(CC1)NC1=NC2=C(N1CC=1OC=CC1)C=CC=C2 | C19H25N5O
reactant | dihydro-3-phenyl-2H-pyran-2,6(3H)dione | C1(=CC=CC=C1)C1C(OC(CC1)=O)=O | C11H10O3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-[2-[4-[[1-(2-furanylmethyl)-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]formamide hemihydrate | O.O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC=O.O2C(=CC=C2)CN2C(=NC1=C2C=CC=C1)NC1CCN(CC1)CCNC=O | InChI=1S/2C20H25N5O2.H2O/c2*26-15-21-9-12-24-10-7-16(8-11-24)22-20-23-18-5-1-2-6-19(18)25(20)14-17-4-3-13-27-17;/h2*1-6,13,15-16H,7-12,14H2,(H,21,26)(H,22,23);1H2
